US08629270B2
tert-Butyl 6a-isothiazol-5-yl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate
Isopropyl alcohol (5.66 L) is cooled to 5° C. and acetyl chloride (941.23 mL, 13.23 mol) is added drop wise (exothermic). The mixture is heated to 45° C., and tert-butyl 6a-isothiazol-5-yl-1-[(4-methoxyphenyl)methyl]-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate (460.17 g, 1.10 mol) is added to the reactor in portions. The resulting white suspension is stirred at 45° C. for 1 hour. Most of the solvent is evaporated to give a wet, off-white solid, which is dissolved in trifluoroacetic acid (2.76 L, 36.52 mol). The resulting dark solution is heated to 70° C. and stirred at this temperature for 1 hour. The reaction mixture is cooled to room temperature and concentrated under reduced pressure. The residue is azeotroped with toluene (2×2.5 L) to give a light brown solid. The residue is dissolved in 2 M aq. HCl solution (4.6 L) and DCM (4.6 L) and stirred vigorously at 40° C. for 30 minutes until full dissolution. The mixture is cooled to room temperature and separated. The aqueous layer is washed with DCM (2×500 mL). The acidic aqueous layer is cooled to 5° C. and the pH is adjusted to 10.5 by the addition of 50% wt/wt aq. NaOH solution. The mixture is cooled to 10° C. and a solution of BOC2O (252.57 g, 1.16 mol) in tetrahydrofuran (2.30 L) is added slowly. The mixture is stirred for 5 minutes and warmed to 25° C. and then stirred 1 hour longer. MTBE (2 L) is added and the resulting phases are separated. The aqueous layer is extracted with MTBE (2×1 L) and the combined organic layers are washed with brine solution (2 L), dried over MgSO4, filtered, and evaporated under reduced pressure to give the crude product as an off-white solid (347.2 g). The crude solid is dissolved in boiling 7:3 v/v isohexane/ethyl acetate (2.8 L) and the resulting clear solution is allowed to slowly cool to room temperature and then cooled in an ice-bath. The resulting white suspension is filtered and washed with cold 7:3 isohexane:ethyl acetate. The white solid is dried under vacuum and nitrogen for 2 days to give the title compound as a white solid (291.30 g, 88.9%). ES/MS (m/e): 298 (M+H).

reactant | acetyl chloride | 13.23 mol, 941.23 mL | C(C)(=O)Cl | C2H3ClO
reactant | tert-butyl 6a-isothiazol-5-yl-1-[(4-methoxyphenyl)methyl]-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate | 1.10 mol, 460.17 g | S1N=CC=C1C12N(OCC1CN(C2)C(=O)OC(C)(C)C)CC2=CC=C(C=C2)OC | C21H27N3O4S
reactant | trifluoroacetic acid | 36.52 mol, 2.76 L | FC(C(=O)O)(F)F | C2HF3O2
reactant | BOC2O | 1.16 mol, 252.57 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | isohexane ethyl acetate | 2.8 L | CCCC(C)C.C(C)(=O)OCC
solvent | HCl | 2 M, 4.6 L | Cl | ClH
solvent | tetrahydrofuran | 2.30 L | O1CCCC1 | C4H8O
solvent | MTBE | 2 L | CC(C)(C)OC | C5H12O
solvent | DCM | 4.6 L | C(Cl)Cl | CH2Cl2
solvent | Isopropyl alcohol | 5.66 L | C(C)(C)O | C3H8O
product | tert-Butyl 6a-isothiazol-5-yl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole-5-carboxylate | 291.30 g, 88.9% | S1N=CC=C1C12NOCC1CN(C2)C(=O)OC(C)(C)C | C13H19N3O3S
